US04413006
1.13 g of powdery sodium hydroxide are added under nitrogen atmosphere to a solution of 5.08 g of 4-acetamido-2-methoxyphenol in 70 ml of anhydrous dimethylsulfoxide. The mixture is stirred at 50° C. for 2 hours. A solution of 6 g of 1-(3-chloro-n-propyl)-4-(2-fluorophenyl)-piperazine in 20 ml of anhydrous dimethylsulfoxide is added dropwise at 20° C. to the mixture, and said mixture is stirred at 100° C. for 1.5 hours. After cooling, the reaction mixture is poured into ice-water. The crystalline precipitates are collected by filtration, whereby a crude product is obtained. The mother liquor obtained after isolating the crude product is extracted with chloroform. The extract is washed with water, dried and then evaporated under reduced pressure to remove the solvent, whereby another crude product is obtained. Both crude products obtained above are dissolved in hot isopropyl alcohol and then treated with activated charcoal. 6.95 of 1-[3-(4-acetamido-2-methoxyphenoxy)-n-propyl]-4-(2-fluorophenyl)-piperazine are thereby obtained as colorless needles. Yield: 74%

reactant | sodium hydroxide | 1.13 g | [OH-].[Na+]
reactant | 4-acetamido-2-methoxyphenol | 5.08 g | C(C)(=O)NC1=CC(=C(C=C1)O)OC | C9H11NO3
reactant | 1-(3-chloro-n-propyl)-4-(2-fluorophenyl)-piperazine | 6 g | ClCCCN1CCN(CC1)C1=C(C=CC=C1)F | C13H18ClFN2
reactant | charcoal | C | CH4
solvent | dimethylsulfoxide | 70 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1-[3-(4-acetamido-2-methoxyphenoxy)-n-propyl]-4-(2-fluorophenyl)-piperazine | Yield: 74% | C(C)(=O)NC1=CC(=C(OCCCN2CCN(CC2)C2=C(C=CC=C2)F)C=C1)OC | C22H28FN3O3
